US08378095B2
To a solution of 2-(2,6-difluorophenyl)-4-(4-methoxyphenyl)oxazole-5-carboxylic acid (0.026 g, 0.08 mmol) and hydroxybenzotriazole monohydrate (0.012 g, 0.08 mmol) in DMF (3 mL) was added 0.5M ammonia in dioxane (0.471 mL, 0.24 mmol) and the reaction mixture stirred at room temperature for 10 minutes. 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide (0.015 g, 0.08 mmol) was then added and the resulting reaction mixture stirred at room temperature overnight. After a further addition of hydroxybenzotriazole monohydrate (0.008 g, 0.05 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide (0.010 g, 0.05 mmol) and 0.5M ammonia in dioxane (0.315 mL, 0.1116 mmol) the reaction mixture was stirred at room temperature for 4 hours. The solvent was evaporated in vacuo, and the residue was partitioned between DCM (10 mL) and water (10 mL). The organic phase was washed with water and brine, dried over MgSO4 and the solvent removed in vacuo. The residue was purified by preparative HPLC to afford 2-(2,6-difluorophenyl)-4-(4-methoxyphenyl)oxazole-5-carboxamide (0.018 g, 0.05 mmol, 69%) as a white solid. 1H NMR (CD3OD) δ 3.88 (3H, s), 7.03 (2H, d), 7.25 (2H, t), 7.68 (1H, m), 8.21 (2H, d). LCMS (2) Rt: 2.80; m/z (ES+) 331.

reactant | 2-(2,6-difluorophenyl)-4-(4-methoxyphenyl)oxazole-5-carboxylic acid | 0.08 mmol, 0.026 g | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C1=CC=C(C=C1)OC)C(=O)O | C17H11F2NO4
reactant | hydroxybenzotriazole monohydrate | 0.08 mmol, 0.012 g | O.OC1=CC=CC=2NN=NC21
reactant | ammonia | 0.5M | N | H3N
reactant | dioxane | 0.24 mmol, 0.471 mL | O1CCOCC1 | C4H8O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide | 0.08 mmol, 0.015 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | hydroxybenzotriazole monohydrate | 0.05 mmol, 0.008 g | O.OC1=CC=CC=2NN=NC21
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide | 0.05 mmol, 0.010 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | ammonia | 0.5M | N | H3N
reactant | dioxane | 0.1116 mmol, 0.315 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(2,6-difluorophenyl)-4-(4-methoxyphenyl)oxazole-5-carboxamide | 0.05 mmol, 0.018 g, 69% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C1=CC=C(C=C1)OC)C(=O)N | C17H12F2N2O3
